US05532240
A mixture of 28 g of 6-acetyl-3-bromoacetyl-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine in 42 ml of triethylsilane and 140 ml of trifluoroacetic acid was stirred at room temperature for 5 hours. The mixture was poured into water, made alkaline and extracted with ethyl acetate. The organic layer was washed with water, dried and concentrated. To the residue was added isopropyl ether and the precipitated crystals were collected by filtration to give 14 g of 6-acetyl-3-(2-bromoethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine as white crystals, m.p. 93°-95° C.

reactant | 6-acetyl-3-bromoacetyl-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 28 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)C(CBr)=O | C12H14BrNO2S
reactant | water | O | H2O
solvent | triethylsilane | 42 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 140 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 6-acetyl-3-(2-bromoethyl)-4,5,6,7-tetrahydro-2-methylthieno[2,3-c]pyridine | 14 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)C)CCBr | C12H16BrNOS
